US08044173B2
L-Valine tert-butyl ester
To a mixture of sodium carbonate (1.20 g, 9.54 mmol, 5.0 equiv.) in deioned water (20 mL) and diethyl ether (20 mL) was added L-valine tert-butyl ester hydrochloride (400 mg, 1.71 mmol, 1.0 equiv.). The resulting solution was stirred for 2 hours under an atmosphere of nitrogen. The aqueous phase was extracted with diethyl ether (3×15 mL) and the combined extracts were dried over MgSO4. The solvent was removed in vacuo to settle the title compound as colourless oil (320 mg, 97%); v(max)(film) 3393 (N—H), 2967 (C—H), 1728 (C═O) cm″1; δH (250 MHz, CDCl3) 3.16 (1H, d, J 4.79 Hz, CHNH2), 2.04-1.97 (1H, m, CH(CH3)2) 1.47 (9H, s, (CH3)3), 1.38 (2H, s, NH2), 0.97 (3H, d, /6.88 Hz, (CHg)2CH×3), 0.90 (3H, d, J 6.86 Hz, (CH3)2CH×3); δc (62.5 MHz, CDCl3) 175.3, 81.2, 60.7 32.6, 28.5, 19.7, 17.4; [α]D20 +26.4 (c CHCl3), (lit. [α]D24 +25.3 (c 1.00 CHCl3)).

reactant | sodium carbonate | 9.54 mmol, 1.20 g, 5.0 equiv. | C([O-])([O-])=O.[Na+].[Na+]
reactant | L-valine tert-butyl ester hydrochloride | 1.71 mmol, 400 mg, 1.0 equiv. | Cl.C(C)(C)(C)OC([C@@H](N)C(C)C)=O
solvent | water | 20 mL | O | H2O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | L-Valine tert-butyl ester | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
